US08012606B2
To a solution of 0.28 g (1.24 millimoles) of palladium (II) acetate in 20 ml of xylene was added 0.96 g (4.28 millimoles) of tri-tert-butylphosphine and the mixture was heated at 80° C. for 30 minutes with stirring. This solution was transferred into a solution heated at 80° C. of 9.0 g (0.025 mole) of 2,7-bis(phenylamino)dibenzodioxin, 14.3 g (0.061 mole) of 3-bromobiphenyl, and 9.53 g (0.099 mole) of sodium tert-butoxide in 200 ml of xylene. The mixture was then heated up to 140° C. and heated at this temperature with stirring for 6 hours. The reaction mixture was cooled to room temperature, 100 ml of water was added, and a precipitate was separated by filtration. The mother liquor was separated into the organic and aqueous layers, the aqueous layer was washed with 100 ml of toluene, and the organic layers were combined, concentrated, and dried under reduced pressure to give 17.9 g of a crude product. The crude product was treated with activated carbon, crystallized from THF/methanol, and purified by reslurrying under heat with ethyl acetate to give 11.7 g (0.017 mole, 69.7% yield) of 2,7-bis(N-3-biphenylyl-N-phenylamino)dibenzodioxin. The product showed a purity of 99.0 area % (HPLC, 254 nm). The product was purified further by sublimation; FD-MS, m/z 671 [M]+, m.p. 232° C., Tg 85° C.

reactant | tri-tert-butylphosphine | 4.28 millimoles, 0.96 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | 2,7-bis(phenylamino)dibenzodioxin | 0.025 mole, 9.0 g | C1(=CC=CC=C1)NC1=CC2=C(OC3=C(O2)C=CC(=C3)NC3=CC=CC=C3)C=C1 | C24H18N2O2
reactant | 3-bromobiphenyl | 0.061 mole, 14.3 g | BrC=1C=C(C=CC1)C1=CC=CC=C1 | C12H9Br
reactant | sodium tert-butoxide | 0.099 mole, 9.53 g | CC(C)([O-])C.[Na+]
reactant | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | palladium (II) acetate | 1.24 millimoles, 0.28 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 100 ml | O | H2O
product | 2,7-bis(N-3-biphenylyl-N-phenylamino)dibenzodioxin | 0.017 mole, 11.7 g, 69.7% yield | C1(=CC(=CC=C1)N(C1=CC=CC=C1)C1=CC2=C(OC3=C(O2)C=CC(=C3)N(C=3C=C(C=CC3)C3=CC=CC=C3)C3=CC=CC=C3)C=C1)C1=CC=CC=C1 | C48H34N2O2
